US06632820B1
4-Chloro-6-(4-bromoanilino)pyrimidine
4,6-Dichloropyrimidine (3.0 g, 20 mmol) was mixed with 4-bromoaniline (3.3 g, 19 mmol) and heated to 125° C. for two hours in tetramethylene sulphone. After cooling the reaction mixture was partitioned between saturated aqueous sodium bicarbonate solution and EtOAc. The organic portion was washed, dried over sodium sulphate, filtered and evaporated. The residue was purified by column chromatography (EtOAc (20%): isohexane) to yield a solid (0.6 g, 11%). M/z 284 (MH)+.

reactant | 4,6-Dichloropyrimidine | 20 mmol, 3.0 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 4-bromoaniline | 19 mmol, 3.3 g | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | tetramethylene sulphone | C1CCCS1(=O)=O | C4H8O2S
product | 4-Chloro-6-(4-bromoanilino)pyrimidine | 0.6 g, 11% | ClC1=NC=NC(=C1)NC1=CC=C(C=C1)Br | C10H7BrClN3
